US07723330B2
Step B: Preparation of 2-(phenylamino)pyrimidin-4(3H)-one:
To a solution of 4-methoxy-N-phenylpyrimidin-2-amine (0.632 g, 3.14 mmol) in acetic acid (20 mL) was added HBr (2.132 mL, 18.84 mmol; 48 wt % in H2O). The reaction mixture was stirred at 90-95° C. for 3 hours. The reaction mixture was cooled to room temperature and diluted with H2O. The pH of the reaction mixture was adjusted to 5-6 with 6 M aqueous NaOH which resulted in the formation of a solid precipitate. The solid was filtered, washed with H2O, collected and dried under vacuum to yield the desired product (0.553 g, 94%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 10.74 (br s, 1H), 8.81 (br s, 1H), 7.76 (s, 1H), 7.60 (d, J=7.8 Hz, 2H), 7.31 (t, J=8.0 Hz, 2H), 7.02 (t, J=7.4 Hz, 1H), 5.81 (s, 1H). LRMS (ESI pos) m/e 188 (M+1).

reactant | 4-methoxy-N-phenylpyrimidin-2-amine | 3.14 mmol, 0.632 g | COC1=NC(=NC=C1)NC1=CC=CC=C1 | C11H11N3O
reactant | HBr | 18.84 mmol, 2.132 mL | Br | BrH
reactant | NaOH | 6 M | [OH-].[Na+]
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | H2O | O | H2O
product | 2-(phenylamino)pyrimidin-4(3H)-one | 0.553 g, 94% | C1(=CC=CC=C1)NC1=NC=CC(N1)=O | C10H9N3O
